data/oMe_Silver.jsonl
{"reaction_id": "NR-241_1-c1ccccc1_2-CC(C)C_3-c1ccc(N(=O)=O)cc1_4-CC(F)(F)F","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["c1ccccc1C(=O)[H]","CC(C)COC(=O)CP(=O)(Oc1ccc(N(=O)=O)cc1)(OCC(F)(F)F)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["c1ccccc1/C=C\\C(=O)OCC(C)C"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)COC(=O)[CH-]P(=O)(Oc1ccc(N(=O)=O)cc1)(OCC(F)(F)F)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)COC(=O)C(P(=O)(Oc1ccc(N(=O)=O)cc1)(OCC(F)(F)F))C([O-])c1ccccc1","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)COC(=O)C1C(c1ccccc1)OP1([O-])(Oc1ccc(N(=O)=O)cc1)(OCC(F)(F)F)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1/C=C\\C(=O)OCC(C)C","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
{"reaction_id": "NR-221_1-c4ccc(OC)cc4_2-c4ccc([N+](=O)[O-])cc4","level": "hard","name": "Pictet-Spengler Reaction","reactants_smiles": ["NCCC1=CNC2=C1C=CC=C2","O=C(c4ccc(OC)cc4)(c4ccc([N+](=O)[O-])cc4)"],"products_smiles": ["C1(c4ccc(OC)cc4)(c4ccc([N+](=O)[O-])cc4)NCCC2=C1NC3=C2C=CC=C3"],"conditions": null,"mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c4ccc(OC)cc4)(c4ccc([N+](=O)[O-])cc4)=[NH+]C(CC1=CNC2=C1C=CC=C2)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by the electron-withdrawing effect of c4ccc(OC)cc4 and c4ccc([N+](=O)[O-])cc4, forming an iminium ion stabilized by resonance with the nitrogen."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C1(c4ccc(OC)cc4)(c4ccc([N+](=O)[O-])cc4)NCCC2C1=[NH+]C3=C2C=CC=C3","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, driven by the strong electrophilicity of the iminium and the proximity in the tethered intermediate, favoring intramolecular cyclization."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(c4ccc(OC)cc4)(c4ccc([N+](=O)[O-])cc4)NCCC2=C1NC3=C2C=CC=C3","step_weight": 0,"rationale": "Deprotonation adjacent to the nitrogen restores aromaticity, a thermodynamically favored process, stabilizing the fused heteroaromatic system."}],"description": "The Pictet–Spengler reaction proceeds via iminium ion formation from the amine and carbonyl, followed by intramolecular electrophilic aromatic substitution to form the fused heterocycle, and concludes with deprotonation to restore aromaticity and yield the stable product."}
